US08389511B2
tert-Butyl (3R)-3-[[4-(ethylamino)-5-nitro-2-(trifluoromethyl)benzoyl](isopropyl)amino]piperidine-1-carboxylate
To a solution of tert-butyl (3R)-3-[[4-chloro-5-nitro-2-(trifluoromethyl)benzoyl](isopropyl)-amino]piperidine-1-carboxylate (930 mg) in ethanol (6 ml) was added ethylamine (2M methanol solution, 10 ml), and the mixture was stirred at 80° C. for 2 hours. The mixture was cooled, and the reaction solution was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (610 mg).

reactant | tert-butyl (3R)-3-[[4-chloro-5-nitro-2-(trifluoromethyl)benzoyl](isopropyl)-amino]piperidine-1-carboxylate | 930 mg | ClC1=CC(=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)C=C1[N+](=O)[O-])C(F)(F)F | C21H27ClF3N3O5
reactant | ethylamine | 2M, 10 ml | C(C)N | C2H7N
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | tert-Butyl (3R)-3-[[4-(ethylamino)-5-nitro-2-(trifluoromethyl)benzoyl](isopropyl)amino]piperidine-1-carboxylate | 610 mg | C(C)NC1=CC(=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)C=C1[N+](=O)[O-])C(F)(F)F | C23H33F3N4O5
